US06706725B1
f) (E)-5-{5-[2-(3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenyl)ethyl]-2-thienyl}-4-heptenoic Acid
In a manner similar to that of Example 6(i), by reaction of 5.08 g (9.5 mmol) of 1-{5-[2-(3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl)ethyl]-2-thienyl}-1-propanone with 6.1 g (14 mmol) of (3-carboxypropyl)triphenylphosphonium bromide and 3.1 g (28 mmol) of potassium tert-butoxide, the desired product is obtained in the form of a yellow oil (m=2.7 g; Y=48%).

reactant | 1-{5-[2-(3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl)ethyl]-2-thienyl}-1-propanone | 9.5 mmol, 5.08 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC1=CC=C(S1)C(CC)=O | C29H48O3SSi2
reactant | (3-carboxypropyl)triphenylphosphonium bromide | 14 mmol, 6.1 g | [Br-].C(=O)(O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 28 mmol, 3.1 g | CC(C)([O-])C.[K+]
product | (E)-5-{5-[2-(3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenyl)ethyl]-2-thienyl}-4-heptenoic Acid | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC1=CC=C(S1)/C(=C/CCC(=O)O)/CC | C33H54O4SSi2
